US08003796B2
Step A. Preparation of (E)-2-chloro-5-(prop-1-enyl)pyrimidine
To 5-bromo-2-chloropyrimidine (2.027 g, 10.48 mmol), (E)-prop-1-enylboronic acid (1.350 g, 15.72 mmol), PdCl2(dppf)-CH2Cl2 (0.428 g, 0.524 mmol), and potassium carbonate (4.35 g, 31.4 mmol) in toluene (20 mL) and water (0.5 mL) was bubbled nitrogen subsurface for 1 minute and then placed in a 90° C. oil bath for 5 hours. 200 mL EtOAc was added and the reaction was then washed with 3×200 mL of water, dried with MgSO4, filtered and concentrated to 1.53 g brown solids. This was purified by flash chromatography (5% EtOAc in hexanes) to yield product (681 mg) as an off-white solid. MS (ESI) 155.7 (M+1).

reactant | 5-bromo-2-chloropyrimidine | 10.48 mmol, 2.027 g | BrC=1C=NC(=NC1)Cl | C4H2BrClN2
reactant | (E)-prop-1-enylboronic acid | 15.72 mmol, 1.350 g | C(=C\C)/B(O)O | C3H7BO2
reactant | potassium carbonate | 31.4 mmol, 4.35 g | C([O-])([O-])=O.[K+].[K+]
reactant | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 0.5 mL | O | H2O
catalyst | PdCl2(dppf) CH2Cl2 | 0.524 mmol, 0.428 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
product | (E)-2-chloro-5-(prop-1-enyl)pyrimidine | 681 mg | ClC1=NC=C(C=N1)\C=C\C | C7H7ClN2
